US06756378B2
To a stirred solution of 1-benzyloxy-2-(R)-hydroxy-5-hexene (2.18 g, 10.5 mmol), triphenylphosphine (3.32 g, 12.7 mmol) and phthalimide (1.86 g, 12.7 mmol) was added diisopropyl azodicarboxylate (2.62 ml, 12.7 mmol) at rt, and the resulting mixture was stirred for overnight at rt. The mixture was concentrated in vacuo and extracted with EtOAc. The organic layer was washed with water, drying over anhydrous Na2SO4, then concentrated in vacuo. The residue was chromatographed on silica gel with hexane-EtOAc (5:1) as eluent to give 1-benzyloxy-2-(S)-phthalimido-5-hexene (2.95 g, 83%) as a colorless oil: 1H-NMR (CDCl3) δ1.76-1.84 (m, 2 H), 2.06 (dd, J 14.4, 6.8 Hz), 2 H, 2.12-2.22 (m, 1 H), 3.69 (dd, J=10.0, 5.6 Hz, 1 H), 4.00 (t, J=9.6 Hz, 1 H), 4.46 (d, J=12.0 Hz, 1 H), 4.53 (d, J=12.0 Hz, 1 H), 4.51-4.58 (m, 1H), 4.91-4.99 (series of m, 2 H), 5.72-5.79 (m, 1 H)7.21-7.26 (m, 5 H), 7.71-7.83 (series of m, 2 H); MS (ESI) m/z, 336 (M++MH).

reactant | 1-benzyloxy-2-(R)-hydroxy-5-hexene | 10.5 mmol, 2.18 g | C(C1=CC=CC=C1)OC[C@@H](CCC=C)O | C13H18O2
reactant | triphenylphosphine | 12.7 mmol, 3.32 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 12.7 mmol, 1.86 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | diisopropyl azodicarboxylate | 12.7 mmol, 2.62 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | 1-benzyloxy-2-(S)-phthalimido-5-hexene | 2.95 g, 83% | C(C1=CC=CC=C1)OC[C@H](CCC=C)N1C(C=2C(C1=O)=CC=CC2)=O | C21H21NO3
